US07825103B2
n-Butyldiisopropylsilane (47a)
Diisopropylchlorosilane (13.1 mL, 76.8 mmol) was dissolved in THF (75 mL), and n-butylmagnesium chloride THF solution (0.84M, 100 mL, 84 mmol) was added dropwise thereto in a nitrogen atmosphere for 10 minutes. Subsequently, cuprous bromide (286 mg, 2.00 mmol) was added to the resultant mixture, followed by stirring at 65° C. for 8 hours. The reaction mixture was left to cool, and saturated aqueous ammonium chloride and n-pentane were added thereto. The formed organic layer was washed three times with water and once with saturated brine, and the thus-washed layer was dried over sodium sulfate anhydrate. The solvent was removed, followed by purification through distillation under reduced pressure, whereby the Compound 47a was obtained as a colorless liquid (boiling point; 50 mmHg, 93.2 to 95.5° C. fraction, 8.43 g, 64%).

reactant | Diisopropylchlorosilane | 76.8 mmol, 13.1 mL | C(C)(C)[SiH](Cl)C(C)C | C6H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | n-pentane | CCCCC | C5H12
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | n-Butyldiisopropylsilane | C(CCC)[SiH](C(C)C)C(C)C | C10H24Si
